Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Augmentin / codeine / Cytotec
 
Attending: ___.
 
Chief Complaint:
post ERCP
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
Patient is a ___ year old woman with history of recently 
diagnosed ampullary mass, hypothyroidism, GERD, who is admitted 
for observation post ERCP.

Briefly, she initially developed abdominal pain about 2 months 
ago and then on routine labwork was found to have abnormal labs 
suggestive of biliary obstruction. This eventually led to a MRCP 
which showed diffuse intra and extrahepatic biliary dilatation 
with 8 x 9 mm focus of hypoenhancement at the sphincter ___ 
concerning for an ampullary mass. An EUS on ___
EUS was performed which shouwed biliiary dilation with the CBD 
measuring up to 13.5 mm. There was a submucosal hypoechoic 
lesion and 3 samples were taken. Biopsy showed benign tissue. 
She continued to have ongoing abd pain prompting an ED visit. 
Her imaging was reviewed at ___. Given the ampullary lesion, 
planned for ERCP for tissue sampling. During this time, her LFTs 
normalized but she continued to have ongoing symptoms of some 
abdominal pain and diarrhea for which her GI MD Dr ___ 
started her on dicyclomine and creon. She reports ongoing 
diarrhea concurrent with abd pain, watery non bloody, usually 
worse with meals, up to ___ times daily, often nocturnal. 

Today, she underwent ERCP with sphincterotomy and brushing from 
the intraampullary area. Due to the mild oozing a decision to 
place a fully covered metal stent was made.  On arrival to 
floor, c/o epigastric abdominal pain which had previously 
responded to dilaudid given in PACU. Also reported substernal 
burning discomfort, which she attributed to her GERD. Denies 
nausea, vomiting, diarrhea, fever, chills, jaundice. ROS 
otherwise negative.

 
 
Past Medical History:
GERD
Hypothyroidism

 
Social History:
___
Family History:
did not obtain
 
Physical Exam:
ADMISSION
VS: 97.5 150/74 69 18 100% RA   
Gen: NAD, A&O x3
HEENT: NCAT, EOMI
CV: RRR, nl S1 S2, no m/r/g
Lungs: CTA b/l
Abd: soft, nt, nd, +BS
Ext: No edema
SKin: No rashes
Psych: Full range of affect
Neuro: CN II-XII intact, normal motor strength and sensation
MSK: No effusions, synovitis

DISCHARGE
VS: 97.8 PO 144 / 96 70 18 98 RA  
Gen: sitting up in bed, comfortable appearing; 
Eyes - EOMI
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft, mild RUQ tenderness to deep palpation, negative 
___ sign; no rebound/guarding; normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION 
___ 11:34AM BLOOD WBC-7.0 RBC-4.78 Hgb-15.4 Hct-45.4* 
MCV-95 MCH-32.2* MCHC-33.9 RDW-12.6 RDWSD-43.9 Plt ___
___ 11:34AM BLOOD UreaN-11 Creat-0.8 Na-137 K-3.9 Cl-102 
HCO3-20* AnGap-19
___ 11:34AM BLOOD ALT-8 AST-11 AlkPhos-110* Amylase-25 
TotBili-0.3

DISCHARGE
___ 01:43PM BLOOD WBC-7.9 RBC-4.04 Hgb-13.3 Hct-38.4 MCV-95 
MCH-32.9* MCHC-34.6 RDW-12.2 RDWSD-42.4 Plt ___
___ 07:20AM BLOOD Glucose-69* UreaN-10 Creat-0.8 Na-140 
K-3.6 Cl-102 HCO3-20* AnGap-22*
___ 07:20AM BLOOD ALT-7 AST-11 LD(LDH)-127 AlkPhos-91 
TotBili-0.4

ERCP:
The scout film was normal and there was evidence of CCY clips.  
•A bulging of the major papilla was noted.  
•Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique.  
•Contrast medium was injected resulting in complete 
opacification.  
•The common bile duct, common hepatic duct, right and left 
hepatic ducts, biliary radicles and cystic duct were filled with 
contrast and well visualized. The course and caliber of the 
structures are normal with no evidence of extrinsic compression, 
no ductal abnormalities, and no filling defects.  
•A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome over an existing guidewire. There was evidence 
of mild oozing post sphincterotomy.  
•Balloon sweeps reveled no evidence of sludge or stones.  
•Due to the suspicion of ampullary mass brushing were performed 
from the intraampullary area.  
•Due to the mild oozing a decision to place a fully covered 
metal stent was made.  
•A 10mm*60mm fully covered metal stent (REF ___, LOT 
___ was placed successfully with excellent omeostasis.  
•Post stent placement there was good bile and contrast drainage 
were noted endoscopically and fluoroscopically.  
•No defenitive cause for abdominal painidentified on this study 
but will await brushing results 
•Otherwise normal ercp to third part of the duodenum

 
Brief Hospital Course:
This is a ___ year old female with past medical history of 
hypothyroidism and GERD, with several months of abdominal pain 
and prior concern for ampullary mass, now admitted ___ 
after elective ERCP that did not show mass or source for pain, 
course complicated by post-procedure pain that subsequently 
resolved with conservative management

# RUQ and Epigastric Abdominal pain
Patient was admitted for elective ERCP for workup of prior 
imaging that had showed a possible ampullary mass; on this ERCP, 
no ampullary mass, biliary dilation or other causes for her 
chronic abdominal pain symptoms were seen. Subsequent to 
procedure patient had increased post-procedure pain without 
signs of infection, pancreatitis, perforation or stent 
migration.  She rapidly improved with conservative management.  
She left against medical advice (as below) before being able to 
demonstrate reliably tolerating a regular diet.  She was 
discharged with prescription to complete 5d course of post-ERCP 
cipro prophylaxis.  Regarding her chronic abdominal pain, she 
was recommended to follow-up with her PCP and outpatient GI for 
discussion of additional workup.  Continued home dicyclomine and 
creon

# Ampullary bleeding - ERCP with sphincterotomy was complicated 
by oozing at sphincterotomy site, prompting placement of metal 
stent over that area.  Patient was subsequently hemodynamically 
stable without signs of bleeding.  Patient will need to 
follow-up for repeat ERCP in 4 weeks for stent pull and 
re-evaluation. 

# Leaving Against Medical Advice - Before patient could 
demonstrate tolerating a regular diet safely, she opted to leave 
against medical advice--this occurred immediately following 
getting caught smoking a cigarette in her room.  She was able to 
verbalize the risks of leaving.  

# Hypothyroidism - continued levothyroxine 

# GERD - continued ranitidine 

Transitional Issues
- Left against medical advice
- Discharged to complete 5 day course of post-ERCP ciprofloxacin
- Cytology brushings sent, but no causes for her abdominal pain 
were identified
- Will need  week follow-up ERCP for stent pull and 
re-evaluation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DICYCLOMine 20 mg PO TID:PRN abdominal spasm 
2. Pancrelipase 5000 5 CAP PO TID W/MEALS 
3. Ranitidine 150 mg PO BID 
4. Levothyroxine Sodium 112 mcg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Doses  
2.  DICYCLOMine 20 mg PO TID:PRN abdominal spasm  
3.  Levothyroxine Sodium 112 mcg PO DAILY  
4.  Pancrelipase 5000 5 CAP PO TID W/MEALS  
5.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# RUQ and Epigastric Abdominal pain
# Ampullary bleeding
# Leaving Against Medical Advice
# Hypothyroidism - continued levothyroxine 
# GERD - continued ranitidine 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Patient was admitted after elective ERCP for abdominal pain with 
placement of stent. On the evening of ___ she wished to 
leave against medical advice. She understood the risks of 
leaving, but was unwilling to discuss her exact reason for 
wanting to leave. She took the prescription for ciprofloxacin 
with her, but did not wish to wait for any further medical care.
 
Followup Instructions:
___